US05719280
substituting tert-butyl 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-1-ylacetate and trifluoroacetic acid gave 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-1-yl-acetic acid, m.p. 228°-230° C.;

reactant | tert-butyl 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-1-ylacetate | C1C(CCC2=CC=CC=C12)N1C(N(C=C1)CC(=O)OC(C)(C)C)=S | C19H24N2O2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-1-yl-acetic acid | C1C(CCC2=CC=CC=C12)N1C(N(C=C1)CC(=O)O)=S | C15H16N2O2S
